US05668147
EXAMPLE 3 a) Trans-3-aminomethyl-4-trifluoromethylpyrrolidine 2 hydrochloride
In 1 ml of dichloromethane, is dissolved 202 mg (0.754 mmol) of trans-3-(tert-butoxycarbonylaminomethyl)-4-trifluoromethylpyrrolidine. To the above solution, is added 1 ml of trifluoroacetic acid on cooling with ice, and the mixture is stirred at 0° C. for 1 hour. To the reaction mixture, is added 0.19 ml of conc-hydrochloride, and the mixture was concentrated under reduced pressure to give 161 mg of the objective substance as a slightly yellow powder (yield 88.6%).

reactant | trans-3-(tert-butoxycarbonylaminomethyl)-4-trifluoromethylpyrrolidine | 0.754 mmol, 202 mg | C(C)(C)(C)OC(=O)NC[C@@H]1CNC[C@H]1C(F)(F)F | C11H19F3N2O2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloride | Cl | ClH
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | Trans-3-aminomethyl-4-trifluoromethylpyrrolidine | yield 88.6% | NC[C@@H]1CNC[C@H]1C(F)(F)F | C6H11F3N2
